US08470859B2
(Step 1) To a solution of 2-aminonicotinamide (0.5 g) in concentrated hydrochloric acid (3 ml) was added dropwise 30% aqueous hydrogen peroxide (0.3 ml). After stirring at 60° C. for 1 hr, the reaction mixture was diluted with water and basified with 1N aqueous sodium hydroxide solution. The mixture was extracted with a mixed solution of ethyl acetate and THF, washed with saturated brine and dried over magnesium sulfate. The reaction solvent was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate) to give 2-amino-5-chloronicotinamide as crystals (0.25 g).

reactant | 2-aminonicotinamide | 0.5 g | NC1=C(C(=O)N)C=CC=N1 | C6H7N3O
reactant | hydrogen peroxide | 0.3 ml | OO | H2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | water | O | H2O
product | 2-amino-5-chloronicotinamide | 0.25 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
